US04203909
1-Cyano-2-(2-propynylamino)-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene
When 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine is reacted with 1-cyano-2-ethoxy-2-propynylaminoethylene [prepared from propargylamine and 1-cyano-2,2-bis(ethoxy)ethylene, which itself is prepared by the procedure described in J. Am. Chem. Soc., 71, 47 (1949)], the title product is produced.

reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 1-cyano-2-ethoxy-2-propynylaminoethylene | C(#N)C=C(NC#CC)OCC | C8H10N2O
reactant | propargylamine | C(C#C)N | C3H5N
reactant | 1-cyano-2,2-bis(ethoxy)ethylene | C(#N)C=C(OCC)OCC | C7H11NO2
product | 1-Cyano-2-(2-propynylamino)-2-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}ethylene | C(#N)C=C(NCCSCC=1OC(=CC1)CN(C)C)NCC#C | C16H22N4OS
